US05635510
57.4 Synthesis of 3-isopropoxybenzoic acid
Combine 3-hydroxybenzoic acid (100 mmol), 2-iodopropane (500 mmol), K2CO3 (300 mmol), and 2-butanone (300 mL). Heat at reflux for 72 h. Concentrate in vacuo to obtain a residue. Add water (500 mL) and cool in an ice bath. Adjust to pH 1 by dropwise addition of concentrated HCl. Extract with dichloromethane (3×200 mL). Extract the combined organic layers with water (200 mL), dry over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Purify to obtain the title compound.

reactant | 3-hydroxybenzoic acid | 100 mmol | OC=1C=C(C(=O)O)C=CC1 | C7H6O3
reactant | 2-iodopropane | 500 mmol | IC(C)C | C3H7I
reactant | K2CO3 | 300 mmol | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | Cl | ClH
solvent | water | 500 mL | O | H2O
solvent | 2-butanone | 300 mL | CC(CC)=O | C4H8O
product | 3-isopropoxybenzoic acid | C(C)(C)OC=1C=C(C(=O)O)C=CC1 | C10H12O3
